US07335658B2
6-[4-(4-TRIFLUOROMETHYLPYRIDINE-3-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 4-trifluoromethylpyridine-3-carboxylic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white powder (69% yield). 1H NMR (300 MHz, CDCl3) δ 8.87, 8.69, 8.05, 7.82, 7.62, 7.00, 4.10-3.69, 3.51-3.44, 3.38-3.35, 1.75-1.61, 1.52-1.45, 0.90. MS (ES+) m/z 451.3 (M+1).

reactant | 4-trifluoromethylpyridine-3-carboxylic acid | FC(C1=C(C=NC=C1)C(=O)O)(F)F | C7H4F3NO2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(4-TRIFLUOROMETHYLPYRIDINE-3-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C=1C=NC=CC1C(F)(F)F)C | C21H25F3N6O2
